US07026335B2
Preparation of 3-[2-(S)-(4-chloro-benzyl)-5-methyl-hex-4-enoyl]-4-(R)-methy-5-(S)-phenyl-oxazolidin-2-one (33):
To a cooled (−78° C.) solution of 3-[3-(4-chloro-phenyl)-propionyl]-4-(R)-methyl-5-(S)-phenyl-oxazolidin-2-one, 32, (500 mg, 1.46 mmol) in THF (15 mL) is added sodium bis(trimethylsilyl)-amide (1.75 mL, 1.0M solution in THF, 1.75 mmol). The resulting solution is stirred at −78° C. then 4-bromo-2-methyl-2-butene (0.20 mL, 1.75 mmol) is slowly added. The resulting solution is stirred at room temperature overnight, and the solvent removed under reduced pressure. The crude product is purified by preparative HPLC to afford 213 mg (36% yield) of the desired compound as a colorless oil. 1H NMR (CDCl3 300 MHz) δ 0.83 (d, J=6.6 Hz, 3H), 1.62 (s, 3H), 1.70 (s, 3H), 2.20–2.55 (m, 2H), 2.77–3.10 (m, 2H), 4.20–4.35 (m, 1H), 4.55–4.68 (m, 1H), 5.15–5.25 (m, 1H), 5.38 (d, J=7.2 Hz, 1H), 7.15–7.45 (m, 9H). MS (ESI) m/z 412 (M+H+)

reactant | 3-[3-(4-chloro-phenyl)-propionyl]-4-(R)-methyl-5-(S)-phenyl-oxazolidin-2-one | ClC1=CC=C(C=C1)CCC(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O | C19H18ClNO3
reactant | sodium bis(trimethylsilyl)-amide | 1.75 mmol, 1.0M, 1.75 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-bromo-2-methyl-2-butene | 1.75 mmol, 0.20 mL | BrCC=C(C)C | C5H9Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-[2-(S)-(4-chloro-benzyl)-5-methyl-hex-4-enoyl]-4-(R)-methy-5-(S)-phenyl-oxazolidin-2-one | 213 mg, 36% yield | ClC1=CC=C(C[C@@H](C(=O)N2C(O[C@H]([C@H]2C)C2=CC=CC=C2)=O)CC=C(C)C)C=C1 | C24H26ClNO3
